US09382243B2
(2R,3 S,4S,5 S)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3,4-diol
To a solution of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (333 mg, 0.648 mmol) in anhydrous DMF (4.0 mL) under nitrogen at room temperature was added (4aR,7S,8R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxine-7,8-diol (196 mg, 0.777 mmol) and cesium carbonate (633 mg, 1.943 mmol). After stirring at room temperature for 1.5 h, the mixture was poured into water (50 mL) and extracted with ethyl acetate (2×70 mL). The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The resultant orange film was dissolved in formic acid (3.6 mL) and saturated aqueous potassium hydrogen sulfate (0.8 mL) was added. After stirring at room temperature for 72 hours, the mixture was warmed to 50° C. for 3.5 h, and then allowed to cool to room temperature. The mixture was slowly poured into saturated aqueous sodium bicarbonate (80 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (60 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant brown oil was dissolved in methanol (10 mL) and THF (3 mL). 1N aqueous lithium hydroxide (5 mL) was added and the mixture was stirred at room temperature. After 30 minutes, the mixture was poured into saturated aqueous sodium bicarbonate (80 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (60 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant beige solid film was chromatographed using a Gilson™ reverse phase preparatory HPLC eluted with MeCN/water/TFA. The slower eluting isomeric product fractions were poured into saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The resultant clear oil was dissolved in MeCN and water, frozen at −78° C., then lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C24H22ClN3O5 467.12, observed m/e: 468.17 (M+H)+ (Rt 1.92/4 min). 1H NMR δ (ppm)(DMSO-d6): 7.91 (s, 1H), 7.77-7.73 (m, 6H), 7.49 (t, J=8.0 Hz, 2H), 7.39 (t, J=7.5 Hz, 1H), 5.44 (br s, 1H), 5.26 (d, J=5.5 Hz, 1H), 4.91 (m, 1H), 4.59 (t, J=5.5 Hz, 1H), 4.18 (q, J=5.5 Hz, 1H), 3.69 (dd, J=11.0 Hz, 6.0 Hz, 1H), 3.55 (t, J=9.0 Hz, 1H), 3.45 (m, 1H), 3.29 (t, J=10.5 Hz, 1H), 3.21 (m, 1H), 3.15 (m, 1H).

reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.648 mmol, 333 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C)Cl)C2=CC=CC=C2 | C25H28ClN3O3SSi
reactant | (4aR,7S,8R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxine-7,8-diol | 0.777 mmol, 196 mg | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)[C@@H]([C@H](CO2)O)O | C13H16O5
reactant | cesium carbonate | 1.943 mmol, 633 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | (2R,3 S,4S,5 S)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3,4-diol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2[C@H]([C@@H]([C@H](OC2)CO)O)O)Cl)C2=CC=CC=C2 | C24H22ClN3O5
